US07211668B2
N-[2-(4-Methyl-thiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester
The title compound was synthesized by the reaction of N-(2-aminoethyl)-glycine ethyl ester 2HCl with 4-methyl-thiazole-2-sulfonyl chloride as per the procedure of example 1. 1H NMR (500 MHz; DMSO-d6) δ 7.68 (s, 1H), 4.07 (q, 2H), 3.26 (s, 2H), 3.02 (t, 2H), 2.58 (t, 2H), 2.43 (s, 3H), 1.18 (t, 3H).

reactant | N-(2-aminoethyl)-glycine ethyl ester 2HCl | Cl.Cl.C(C)OC(CNCCN)=O
reactant | 4-methyl-thiazole-2-sulfonyl chloride | CC=1N=C(SC1)S(=O)(=O)Cl | C4H4ClNO2S2
product | N-[2-(4-Methyl-thiazole-2-sulfonylamino)-ethyl]-glycine ethyl ester | C(C)OC(CNCCNS(=O)(=O)C=1SC=C(N1)C)=O | C10H17N3O4S2
